US07910595B2
benzyl 1-hydroxy-2-methylpropan-2-ylcarbamate
A solution of 2-amino-2-methylpropan-1-ol (1.0 g, 11.2 mmol), triethylamine (1.7 mL, 12.2 mmol) and N-(benzyloxycarbonyloxy)-succinimide (3.1 g, 12.4 mmol) in THF (100 mL) at 0° C. were reacted for 0.5 hours then at room temperature for an additional hour. The reaction was concentrated and extracted with ethyl acetate (100 mL). The organic extract was washed sequentially with water, brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by chromatography on silica gel, eluting with a gradient of ethyl acetate in dichloromethane (0-20%) to give the title compound as a colorless oil (2.5 g, quantitative).

reactant | 2-amino-2-methylpropan-1-ol | 11.2 mmol, 1.0 g | NC(CO)(C)C | C4H11NO
reactant | triethylamine | 12.2 mmol, 1.7 mL | C(C)N(CC)CC | C6H15N
reactant | N-(benzyloxycarbonyloxy)-succinimide | 12.4 mmol, 3.1 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | benzyl 1-hydroxy-2-methylpropan-2-ylcarbamate | 2.5 g | OCC(C)(C)NC(OCC1=CC=CC=C1)=O | C12H17NO3
